US04183870
(ii) Preparation of 7-(3-hydroxy-3-methyl-4-phenoxybut-1-enyl)-6-(7-trimethylsiloxyheptyl)-1,4-dioxaspiro[4,4]nonane
By proceeding in a similar manner to that hereinbefore described in Example 3(iii), but replacing the 6-(7-trimethylsiloxyheptyl)-7-(3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane used as starting material by the appropriate quantity of 6-(7-trimethylsiloxyheptyl)-7-(3-oxo-4-phenoxybut-1-enyl)-1,4-dioxaspiro[4,4]nonane, there was prepared 7-(3-hydroxy-3-methyl-4-phenoxybut-1-enyl)-6-(7-trimethylsiloxyheptyl-1,4-dioxaspiro[4,4]nonane.

reactant | 6-(7-trimethylsiloxyheptyl)-7-(3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane | C[Si](OCCCCCCCC1C2(OCCO2)CCC1C=CC(CCCCC)=O)(C)C | C25H46O4Si
reactant | 6-(7-trimethylsiloxyheptyl)-7-(3-oxo-4-phenoxybut-1-enyl)-1,4-dioxaspiro[4,4]nonane | C[Si](OCCCCCCCC1C2(OCCO2)CCC1C=CC(COC1=CC=CC=C1)=O)(C)C | C27H42O5Si
reactant | 7-trimethylsiloxyheptyl-1,4-dioxaspiro[4,4]nonane | C[Si](OCCCCCCCC1OC2(OC1)CCCC2)(C)C | C17H34O3Si
product | 7-(3-hydroxy-3-methyl-4-phenoxybut-1-enyl)-6-(7-trimethylsiloxyheptyl)-1,4-dioxaspiro[4,4]nonane | OC(C=CC1C(C2(OCCO2)CC1)CCCCCCCO[Si](C)(C)C)(COC1=CC=CC=C1)C | C28H46O5Si
